US04211724
To a suspension of sodium hydride (1.08 mol) in 1200 ml of toluene was added dropwise 235 g (1.08 mol) of diethyl n-butylmalonate. To the resulting clear solution of the sodium salt was then bubbled perchloryl fluoride while the the temperature was maintained below 10° C. When the calculated amount of perchoryl fluoride had been added a stream of argon was bubbled through the solution for a short period of time. The mixture was filtered and the toluene removed under reduced pressure. The remaining oil was distilled to give 223 g, b.p. 78° (0.1 mmHg) of diethyl-2-fluoro-n-butylmalonate.

reactant | sodium hydride | 1.08 mol | [H-].[Na+]
reactant | diethyl n-butylmalonate | 1.08 mol, 235 g | C(CCC)C(C(=O)OCC)C(=O)OCC | C11H20O4
reactant | sodium | [Na] | Na
reactant | perchloryl fluoride | Cl(=O)(=O)(=O)F | ClFO3
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | diethyl-2-fluoro-n-butylmalonate | 223 g | C(C)OC(C(C(=O)OCC)CC(CC)F)=O | C11H19FO4
